US05198450
5.5 mmol of thiazolidine and 5.5 mmol of triethylamine were dissolved in 10 ml of methylene chloride. To the solution 5 mmol of 4-phenylbutanoyl chloride was added dropwise under ice-cooling with stirring. The mixture was left to raise to room temperature and further heated under refluxing for 2 hours. The resulting reaction mixture was washed with 1N hydrochloric acid, brine, and saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The solvent was evaporated by distillation and the residue was purified by column chromatography on silica gel to obtain 1.14 g of colorless crystals of N-(4-phenylbutanoyl)thiazolidine (yield: 88%).

reactant | thiazolidine | 5.5 mmol | S1CNCC1 | C3H7NS
reactant | triethylamine | 5.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 4-phenylbutanoyl chloride | 5 mmol | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(4-phenylbutanoyl)thiazolidine | yield: 88% | C1(=CC=CC=C1)CCCC(=O)N1CSCC1 | C13H17NOS
